US06156903
ethyl 3-(2-amino-5-fluoropyridine-4-yl)amino-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate
To 1.2 ml chloroform solution of ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate prepared from 0.34 g of ethyl 3-chloro-2,4,5-trifluorobenzoylacetate by normal process was added 0.25 g of 2,4-diamino-5-fluoropyridine hydrochloride together with 0.28 g of N-methylpyrrolidine. The solution was concentrated under reduced pressure, and to the residue were added 0.52 g of anhydrous potassium carbonate and 0.8 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 15 minutes and allowed to cool. The solution was separated by adding 20 ml of chloroform and 100 ml of distilled water, and the chloroform layer was washed with 100 ml of distilled water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to column chromatography (silica gel, 14 g; eluent: chloroform:methanol, 1:0, and then, 100:1), and the fraction containing the main product was concentrated under reduced pressure. The precipitate was dispersed in ethanol, collected by filtration, and washed with ethanol and diisopropylether successively to obtain 1.06 g of the title mixture (1:1 in NMR) as a pale brown powder.

reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C14H12ClF3O4
reactant | ethyl 3-chloro-2,4,5-trifluorobenzoylacetate | 0.34 g | ClC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8ClF3O3
reactant | 2,4-diamino-5-fluoropyridine hydrochloride | 0.25 g | Cl.NC1=NC=C(C(=C1)N)F
reactant | N-methylpyrrolidine | 0.28 g | CN1CCCC1 | C5H11N
solvent | chloroform | 1.2 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-(2-amino-5-fluoropyridine-4-yl)amino-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | 1.06 g | NC1=NC=C(C(=C1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O)F | C17H12ClF4N3O3
